US07582773B2
Step 2: Synthesis of 3-Benzyl-5-(4-methoxy-phenyl)-1,2-dimethyl-1H-indole.
The desired product was prepared using a procedure similar to step 3 of example 3. Thus, 3-benzyl-5-bromo-1,2-dimethyl-1H-indole (1.453 g, 4.624 mmol) was reacted with aqueous 2M K2CO3 (4.6 ml), 4-methoxyphenylboronic acid (0.843 g, 5.549 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.076 g, 0.092 mmol) in dioxane (46 ml) to give the product (0.419 g, 1.227 mmol, 27%) as a solid, mp 139-141° C. 1H NMR (DMSO-d6) δ 2.40 (s, 3H), 3.67 (s, 3H), 3.76 (s, 3H), 4.06 (s, 2H), 6.97 (d, J=8.9 Hz, 2H), 7.08-7.12 (m, 1H), 7.19-7.24 (m, 4H), 7.29 (dd, J=1.8, 8.6 Hz, 1H), 7.39 (d, J=8.4 Hz, 1H), 7.51 (d, J=8.9 Hz, 2H), 7.55 (d, J=1.5 Hz, 1H); [ESI(+)], m/z 342 (M+H)+.

reactant | 3-benzyl-5-bromo-1,2-dimethyl-1H-indole | 4.624 mmol, 1.453 g | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)Br)C)C | C17H16BrN
reactant | K2CO3 | 2M, 4.6 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 5.549 mmol, 0.843 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | dichloromethane | 0.092 mmol, 0.076 g | ClCCl | CH2Cl2
solvent | dioxane | 46 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-Benzyl-5-(4-methoxy-phenyl)-1,2-dimethyl-1H-indole | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(C=C1)OC)C)C | C24H23NO
